US07323472B2
4-(2-Fluoro-phenyl)-6-(2-fluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde
Prepared as described above in Example 11 starting from 4-chloro-6-(2-fluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde and 2-fluorophenylboronic acid to give the title compound 4-(2-fluoro-phenyl)-6-(2-fluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde. 1H-NMR: δ0.61 (s, 3H), 7.11-7.23 (m, 4H), 7.26 (m, 1H), 7.45-7.62 (m, 2H), 8.38 (m, 1H), 9.80 (s, 1H), 11.33 (br s, 1H). LC MS (m/e)=358 (MH+).

reactant | 4-chloro-6-(2-fluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=NC(=NC(=C1C=O)NC1=C(C=CC=C1)F)SC | C12H9ClFN3OS
reactant | 2-fluorophenylboronic acid | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
product | 4-(2-fluoro-phenyl)-6-(2-fluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | FC1=C(C=CC=C1)C1=NC(=NC(=C1C=O)NC1=C(C=CC=C1)F)SC | C18H13F2N3OS
